US06352989B1
6,7-Dimethoxy-2-methylamino-4 (3-nitrophenyl)quinazoline
2.50 g of 2-chloro-6,7-dimethoxy-4-(3-nitrophenyl)quinazoline obtained in Production Example 1,4.89 g methylamine hydrochloride and 11.0 g triethylamine were suspended in 25 ml 1-methyl-2-pyrrolidinone and stirred at 130° C. for 18 hours in a sealed tube. Ethyl acetate and tetrahydrofuran were added thereto, and the reaction solution was washed with water 5 times and then with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified and separated by silica gel column chromatography (hexane:ethyl acetate=1:2). The product was recrystallized from tetrahydrofuran-ethyl acetate to give 1.89 g of the title compound as yellow crystals.

reactant | 2-chloro-6,7-dimethoxy-4-(3-nitrophenyl)quinazoline | 2.50 g | ClC1=NC2=CC(=C(C=C2C(=N1)C1=CC(=CC=C1)[N+](=O)[O-])OC)OC | C16H12ClN3O4
reactant | triethylamine | 11.0 g | C(C)N(CC)CC | C6H15N
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | 1-methyl-2-pyrrolidinone | 25 ml | CN1C(CCC1)=O | C5H9NO
product | 6,7-Dimethoxy-2-methylamino-4 (3-nitrophenyl)quinazoline | 1.89 g | COC=1C=C2C(=NC(=NC2=CC1OC)NC)C1=CC(=CC=C1)[N+](=O)[O-] | C17H16N4O4
